US09126993B2
To a stirred solution of 5-(4-fluorophenyl)-1,3,4-oxathiazol-2-one (42.80 g, 217.1 mmol) in o-dichlorobenzene (600 mL) was added ethyl propiolate (66.0 mL, 651 mmol). The mixture was heated overnight at 135° C. and concentrated. The residual oil was purified by flash chromatography using a hexane/ethyl acetate gradient to afford ethyl 3-(4-fluorophenyl)isothiazole-5-carboxylate as a pale golden solid (17.35 g, 32%). The more polar, ethyl 3-(4-fluorophenyl)isothiazole-4-carboxylate isomer (generated in 57/43 ratio versus the desired product) was discarded.

reactant | 5-(4-fluorophenyl)-1,3,4-oxathiazol-2-one | 217.1 mmol, 42.80 g | FC1=CC=C(C=C1)C1=NSC(O1)=O | C8H4FNO2S
reactant | ethyl propiolate | 651 mmol, 66.0 mL | C(C#C)(=O)OCC | C5H6O2
solvent | o-dichlorobenzene | 600 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | ethyl 3-(4-fluorophenyl)isothiazole-5-carboxylate | 17.35 g, 32% | FC1=CC=C(C=C1)C1=NSC(=C1)C(=O)OCC | C12H10FNO2S
